US07384967B2
[4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy)-phenyl]acetic acid (25 mg, 86%) was prepared from [4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl)ethoxy)-phenyl]acetic acid methyl ester (0.03 g, 0.06 mmol) and 2.5M LiOH (20 uL) following the general procedure J.

reactant | [4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl)ethoxy)-phenyl]acetic acid methyl ester | 0.06 mmol, 0.03 g | COC(CC1=CC=C(C=C1)OCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C28H31N3O5S
solvent | LiOH | 2.5M, 20 uL | [Li+].[OH-]
product | [4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}ethoxy)-phenyl]acetic acid | 25 mg, 86% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCOC1=CC=C(C=C1)CC(=O)O)=O | C27H29N3O5S
